US05739742
A bismuth oxide powder (whose average particle size is about 2 to 3 μm), an antimony oxide powder (whose average particle size is about 2 to 3 μm) and a boron oxide fine powder (whose average particle size is about 2 to 3 μm) were mixed at a weight of 97.5:2:0.5. The mixed powder was heat treated at a temperature of 450° C. for 5 hrs. in the air. Further, a bismuth oxide powder a chromium oxide fine powder (whose average particle size is about 0.5 to 1.5 μm) were mixed at a weight ratio of 75:25. The mixed powder was heat treated at a temperature of 550° C. for 5 hrs. These were blended at a weight ratio of 10:1 and ground fine. Consequently, a synthetic powder of bismuth oxide/antimony oxide/chromium oxide (whose average particle size is about 2 to 3 μm) was obtained.

reactant | bismuth oxide | [Bi]=O
reactant | antimony oxide | [Sb]=O
reactant | boron oxide | [B]=O | BO
reactant | chromium oxide | [O-2].[Cr+3].[O-2].[O-2].[Cr+3]
product | bismuth oxide antimony oxide chromium oxide | [Bi]=O.[Sb]=O.[O-2].[Cr+3].[O-2].[O-2].[Cr+3] | InChI=1S/Bi.2Cr.5O.Sb/q;2*+3;;;3*-2;
